US04122193
2.43 grams of 1-bromo-3,5-dimethyl-adamantane hydrochloride were heated in a closed vessel for 40 minutes at 180° C., with 2.8 grams of N,N'-di-isopropylurea. After cooling, the reaction product was suspended in 50 ml. of water, acidified, and extracted with two 10-ml. portions of ether. Next, the water phase was brought to a pH of between 12 and 13 with sodium hydroxide, stirred for 10 minutes, and extracted with four 10-ml. portions of benzene. The benzene extracts were combined, the benzene stripped off, and the residue refluxed for 10 hours with 4 ml. of a 32% formaldehyde solution and 4 ml. of concentrated formic acid. After cooling, the solution was worked up as in Example 6. It yielded 1.04 grams of 1-(N-methyl,N-isopropylamino)-3,5-dimethyl-adamantane hydrochloride. Yield: 38% of theoretical yield.

reactant | 1-bromo-3,5-dimethyl-adamantane hydrochloride | 2.43 grams | Cl.BrC12CC3(CC(CC(C1)C3)(C2)C)C
reactant | N,N'-di-isopropylurea | 2.8 grams | C(C)(C)NC(=O)NC(C)C | C7H16N2O
solvent | water | O | H2O
product | 1-(N-methyl,N-isopropylamino)-3,5-dimethyl-adamantane hydrochloride | 1.04 grams, Yield: 38% | Cl.CN(C(C)C)C12CC3(CC(CC(C1)C3)(C2)C)C | InChI=1S/C16H29N.ClH/c1-12(2)17(5)16-8-13-6-14(3,10-16)9-15(4,7-13)11-16;/h12-13H,6-11H2,1-5H3;1H
